US07411072B2
5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(3-morpholin-4-yl-propyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 1-(2-morpholin-4-yl-propyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (205 mg, 0.53 mmol)(prepared following procedures essentially as described in Preparation 36), 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine (E-isomer, 150 mg, 0.5 mmol), 2N Na2CO3 (0.5 mL), dioxane (5 mL) and (Ph3P)4Pd (53 mg, 0.046 mmol). Purify the crude product by column chromatography using 2N NH3 in MeOH/dichloromethane. Triturate the product obtained (192 mg) with hexane to give 170 mg pure title compound, HPLC (ISO80-10M) t=1.72 (100%). MS (ES) 486 (M+1), 484 (M−1). H NMR (DMSO-d6)10.68 (s, 1H), 7.57 (m, 2H), 7.35 (t, 1H, J=7.5 Hz), 7.22 (t, 1H, J=7.7 Hz), 6.96 (m, 3H), 6.78 (td, 1H, J=12.0, 4.2 Hz), 6.71 (d, 1H, J=7.5 Hz), 6.60 (m, 2H), 5.31 (br d, 2H), 3.72 (t, 2H, J=6.6 Hz), 3.46 (t, 4H, J=4.2 Hz), 2.48 (m, 4H), 1.71 (m, 2H), 2.20 (m, 6H).

reactant | 1-(2-morpholin-4-yl-propyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 0.53 mmol, 205 mg | N1(CCOCC1)C(CN1C(NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)=O)C | C20H30BN3O4
reactant | 11-bromomethylene-3-fluoro-6,11-dihydro-dibenzo[b,e]oxepine | 0.5 mmol, 150 mg | BrC=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C15H10BrFO
reactant | Na2CO3 | 2N, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (Ph3P)4Pd | 0.046 mmol, 53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(3-fluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(3-morpholin-4-yl-propyl)-1,3-dihydro-benzoimidazol-2-one | 170 mg | FC=1C=CC2=C(OCC3=C(C2=CC2=CC4=C(N(C(N4)=O)CCCN4CCOCC4)C=C2)C=CC=C3)C1 | C29H28FN3O3
